US08426569B2
Steps (b) and (c): Synthesis of 1-(2,3-dideoxy-5-O-trityl-β-D-ribofuranosyl)-4-(1-propynyl)pyrrole-2-carbaldehyde
To a solution of 1-(2-deoxy-5-O-trityl-β-D-ribofuranosyl)-4-(1-propynyl)pyrrole-2-carbaldehyde (392 mg, 797 μmol) in acetonitrile were added 4-dimethylaminopyridine (975 mg, 7.98 mmol) and phenyl chlorothioformate (470 μl, 3.40 mmol) in an argon atmosphere, and the reaction mixture was stirred at room temperature. After 23 hours, the reaction solution was concentrated under reduced pressure, and purified by column chromatography on silica gel (50-67% CH2Cl2 in hexane) to give an intermediate (193 mg, containing minor amounts of impurities). To a solution of this intermediate in toluene (10 ml) were added tri-n-butyltin hydride (165 μl, 612 μmol) and α,α′-azobisisobutyronitrile (15 mg, 92 μmol), and the reaction mixture was refluxed for 5 hours in an argon atmosphere. The reaction solution was concentrated under reduced pressure, and the resulting crude product was purified by column chromatography on silica gel (eluent: 50-80% CH2Cl2 in hexane) to give the title product (84 mg, 58%).

reactant | 1-(2-deoxy-5-O-trityl-β-D-ribofuranosyl)-4-(1-propynyl)pyrrole-2-carbaldehyde | 797 μmol, 392 mg | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)OC[C@@H]1[C@H](C[C@@H](O1)N1C(=CC(=C1)C#CC)C=O)O | C32H29NO4
reactant | phenyl chlorothioformate | 3.40 mmol, 470 μl | ClC(=S)OC1=CC=CC=C1 | C7H5ClOS
reactant | tri-n-butyltin hydride | 612 μmol, 165 μl | C(CCC)[SnH](CCCC)CCCC
reactant | α,α′-azobisisobutyronitrile | 92 μmol, 15 mg | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
solvent | acetonitrile | C(C)#N | C2H3N
catalyst | 4-dimethylaminopyridine | 7.98 mmol, 975 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | 1-(2,3-dideoxy-5-O-trityl-β-D-ribofuranosyl)-4-(1-propynyl)pyrrole-2-carbaldehyde | 84 mg, 58% | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)OC[C@@H]1CC[C@@H](O1)N1C(=CC(=C1)C#CC)C=O | C32H29NO3
